US06448031B1
H-Leu-Arg(Tos)-Pro-NHEt was dissolved in 80 mL of DMF and 200 mL of THF. With cooling the solution was neutralized with N-methylmorpholine. To the solution, a solution in which 8.86 g of Boc-D-Leu-OH and 23.02 g of HOSu were dissolved in 200 mL of THF, and 36.4 mL of WSC were added. Next the mixture was stirred at 0° C. for 5 minutes and at room temperature overnight. After confirmation with ninhidrin, the reaction mixture was concentrated under reduced pressure. To the residue, 500 mL of water was added, then the mixture was extracted 5 times with 200 mL of n-butanol and washed five times with water. The n-butanol layer was concentrated under reduced pressure, then the residue was solidified by treatment with ether. Thus 21.5 g of Boc-D-Leu-Leu-Arg(Tos)-Pro-NHEt (92.1% yield) was obtained.

reactant | H-Leu-Arg(Tos)-Pro-NHEt | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)NCC)CCC1 | C26H43N7O5S
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | HOSu | 23.02 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | WSC | 36.4 mL | CCN=C=NCCCN(C)C | C8H17N3
reactant | Boc-D-Leu-OH | 8.86 g | N([C@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Boc-D-Leu-Leu-Arg(Tos)-Pro-NHEt | 21.5 g, 92.1% yield | N([C@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OC(C)(C)C | C37H62N8O8S
